*** SPICE deck for cell fa{lay} from library full_adder
*** Created on Sal Ara 16, 2025 21:36:20
*** Last revised on Sal Ara 16, 2025 22:28:13
*** Written on Sal Ara 16, 2025 22:48:41 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Inverter__Inv FROM CELL Inverter:Inv{lay}
.SUBCKT Inverter__Inv gnd in out vdd
Mnmos@0 gnd in out gnd N L=0.6U W=3U AS=6.75P AD=18P PS=10.5U PD=28.5U
Mpmos@0 vdd in out vdd P L=0.6U W=3U AS=6.75P AD=20.25P PS=10.5U PD=29.1U
.ENDS Inverter__Inv

*** SUBCIRCUIT NorGate__NOR FROM CELL NorGate:NOR{lay}
.SUBCKT NorGate__NOR A AorB B gnd vdd
Mnmos@0 gnd A AorB gnd N L=0.6U W=3U AS=5.25P AD=13.5P PS=7.5U PD=21U
Mnmos@1 AorB B gnd gnd N L=0.6U W=3U AS=13.5P AD=5.25P PS=21U PD=7.5U
Mpmos@0 vdd A net@6 vdd P L=0.6U W=3U AS=2.25P AD=22.95P PS=4.5U PD=32.1U
Mpmos@1 net@6 B AorB vdd P L=0.6U W=3U AS=5.25P AD=2.25P PS=7.5U PD=4.5U
.ENDS NorGate__NOR

*** SUBCIRCUIT NandGate__NAND FROM CELL NandGate:NAND{lay}
.SUBCKT NandGate__NAND A AB B gnd vdd
Mnmos@1 AB A net@6 gnd N L=0.6U W=3U AS=2.7P AD=5.25P PS=4.8U PD=7.5U
Mnmos@2 net@6 B gnd gnd N L=0.6U W=3U AS=20.25P AD=2.7P PS=31.5U PD=4.8U
Mpmos@0 vdd A AB vdd P L=0.6U W=3U AS=5.25P AD=13.5P PS=7.5U PD=21U
Mpmos@1 AB B vdd vdd P L=0.6U W=3U AS=13.5P AD=5.25P PS=21U PD=7.5U
.ENDS NandGate__NAND

*** SUBCIRCUIT XorGate__XOR FROM CELL XorGate:XOR{lay}
.SUBCKT XorGate__XOR A B gnd out vdd
Mnmos@0 net@6 A out gnd N L=0.6U W=3U AS=4.275P AD=5.4P PS=5.85U PD=8.1U
Mnmos@1 out net@17 net@6 gnd N L=0.6U W=3U AS=5.4P AD=4.275P PS=8.1U PD=5.85U
Mnmos@2 net@6 net@28 gnd gnd N L=0.6U W=3U AS=17.775P AD=5.4P PS=25.35U PD=8.1U
Mnmos@3 gnd B net@6 gnd N L=0.6U W=3U AS=5.4P AD=17.775P PS=8.1U PD=25.35U
Mnmos@4 gnd A net@28 gnd N L=0.6U W=3U AS=6.75P AD=17.775P PS=10.5U PD=25.35U
Mnmos@5 net@17 B gnd gnd N L=0.6U W=3U AS=17.775P AD=6.75P PS=25.35U PD=10.5U
Mpmos@0 vdd A net@1 vdd P L=0.6U W=3U AS=2.25P AD=21.6P PS=4.5U PD=27.9U
Mpmos@2 net@1 net@17 out vdd P L=0.6U W=3U AS=4.275P AD=2.25P PS=5.85U PD=4.5U
Mpmos@3 out net@28 net@4 vdd P L=0.6U W=3U AS=2.7P AD=4.275P PS=4.8U PD=5.85U
Mpmos@4 net@4 B vdd vdd P L=0.6U W=3U AS=21.6P AD=2.7P PS=27.9U PD=4.8U
Mpmos@5 vdd A net@28 vdd P L=0.6U W=3U AS=6.75P AD=21.6P PS=10.5U PD=27.9U
Mpmos@6 net@17 B vdd vdd P L=0.6U W=3U AS=21.6P AD=6.75P PS=27.9U PD=10.5U
.ENDS XorGate__XOR

*** SUBCIRCUIT half_adder__ha FROM CELL half_adder:ha{lay}
.SUBCKT half_adder__ha A B C gnd OUT vdd
XInv@1 gnd net@52 C vdd Inverter__Inv
XNAND@0 A net@52 B gnd vdd NandGate__NAND
XXOR@0 A B gnd OUT vdd XorGate__XOR
.ENDS half_adder__ha

*** TOP LEVEL CELL: fa{lay}
XInv@0 gnd net@8 C_out vdd Inverter__Inv
XNOR@0 net@16 net@8 net@83 gnd vdd NorGate__NOR
Xha@0 C_in net@62 net@16 gnd S vdd half_adder__ha
Xha@1 A B net@83 gnd net@62 vdd half_adder__ha

* Spice Code nodes in cell cell 'fa{lay}'
vdd vdd 0 DC 5 
va A 0 DC pwl 10n 0 20n 5 50n 5 60n 0 90n 0 100n 5 130n 5 140n 0 170n 0 180n 5
vb B 0 DC pwl 10n 0 20n 5 100n 5 110n 0 
vcin C_in 0 DC pwl 0n 0 20n 0 30n 5 60n 5 70n 0 100n 0 120n 0 130n 5 160n 5 170n 0
.tran 200n 
.include C:\Users\omery\Desktop\C5_models.txt
* Trailer cards described in this file:
.include C:\Users\omery\Desktop\C5_models.txt
.END
