*** SPICE deck for cell Inv_sim{lay} from library Inverter
*** Created on Cum Ara 12, 2025 17:10:44
*** Last revised on Cum Ara 12, 2025 23:01:38
*** Written on Cum Ara 12, 2025 23:02:26 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Inverter__Inv FROM CELL Inv{lay}
.SUBCKT Inverter__Inv gnd in out vdd
Mnmos@0 gnd in out gnd N L=0.6U W=3U AS=6.75P AD=18P PS=10.5U PD=28.5U
Mpmos@0 vdd in out vdd P L=0.6U W=3U AS=6.75P AD=20.25P PS=10.5U PD=29.1U
.ENDS Inverter__Inv

*** TOP LEVEL CELL: Inv_sim{lay}
XInv@0 gnd in out vdd Inverter__Inv

* Spice Code nodes in cell cell 'Inv_sim{lay}'
vdd vdd 0 DC 5
vin in 0 DC pwl 10n 0 20n 5 50n 5 60n 0
cload out 0 250fF
.measure tran tf trig v(out) val=4.5 fall=1 td=8ns targ v(out) val=0.5 fall=1
.measure tran tr trig v(out) val=0.5 rise=1 td=50ns targ v(out) val=4.5 rise=1
.tran 0 100ns
.include C:\Users\omery\Desktop\C5_models.txt
* Trailer cards described in this file:
.include C:\Users\omery\Desktop\C5_models.txt
.END
