*** SPICE deck for cell XOR_sim{sch} from library XorGate
*** Created on Paz Ara 14, 2025 22:26:11
*** Last revised on Paz Ara 14, 2025 22:36:10
*** Written on Paz Ara 14, 2025 22:37:30 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT Inverter__Inv FROM CELL Inverter:Inv{sch}
.SUBCKT Inverter__Inv in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd N L=0.6U W=3U
Mpmos@0 vdd in out vdd P L=0.6U W=3U
.ENDS Inverter__Inv

*** SUBCIRCUIT XorGate__XOR FROM CELL XOR{sch}
.SUBCKT XorGate__XOR A B OUT
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 OUT A net@5 gnd N L=0.6U W=3U
Mnmos@1 OUT net@48 net@6 gnd N L=0.6U W=3U
Mnmos@2 net@5 B gnd gnd N L=0.6U W=3U
Mnmos@3 net@6 net@41 gnd gnd N L=0.6U W=3U
Mpmos@0 vdd A net@1 vdd P L=0.6U W=3U
Mpmos@2 net@1 net@48 OUT vdd P L=0.6U W=3U
Mpmos@3 vdd net@41 net@3 vdd P L=0.6U W=3U
Mpmos@4 net@3 B OUT vdd P L=0.6U W=3U
XInv@0 A net@41 Inverter__Inv
XInv@1 B net@48 Inverter__Inv
.ENDS XorGate__XOR

.global gnd vdd

*** TOP LEVEL CELL: XOR_sim{sch}
XXOR@0 A B OUT XorGate__XOR

* Spice Code nodes in cell cell 'XOR_sim{sch}'
vdd vdd 0 DC 5
va A 0 DC pwl 10n 0 20n 5 50n 5 60n 0 90n 0 100n 5 130n 5 140n 0 170n 0 180n 5
vb B 0 DC pwl 10n 0 20n 5 100n 5 110n 0
.tran 200n
.include C:\Users\omery\Desktop\C5_models.txt
* Trailer cards described in this file:
.include C:\Users\omery\Desktop\C5_models.txt
.END
